US07459263B2
Synthesis of 2-(1-naphthoyloxy)ethyl methacrylate (CS-20)
A mixture of 1-napthoic acid (8.0 g, 46 mmol), 2-hydroxyethylmethacrylate (18.1 g, 139 mmol), dimethylamino-pyridine p-toluenesulfonic acid salt (5.5 g, 19 mmol), and anhydrous dichloromethane (45 mL) was cooled to 0° C. under nitrogen, and 1,3-dicyclohexyl-carbodiimide (12.5 g, 60 mmol) were added. After 15 min, the reaction mixture was warmed to ambient and stirred for 3 h. The precipitated urea by-product was filtered, and the filtrate was washed successively with 10% aqueous HCl, 10% aqueous NaHCO3, water, and brine. The organic layer was dried (Na2SO4) and concentrated to deposit a gold oil. The product was purified by column chromatography to provide 8.2 g (62% of theory) of a pale yellow oil. 1H NMR (CDCl3): δ 1.90 (s, 3H), 1.55 (m, 2H), 1.70 (m, 2H), 5.60 (s, 1H), 6.20 (s, 1H), 7.55 (m, 3H), 7.90 (d, 1H), 8.05 (d, 1H), 8.20 (d, 1H), 8.90 (d, 1H).

reactant | 1-napthoic acid | 46 mmol, 8.0 g | C1(=CC=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | 2-hydroxyethylmethacrylate | 139 mmol, 18.1 g | OCCOC(C(=C)C)=O | C6H10O3
reactant | dimethylamino-pyridine p-toluenesulfonic acid salt | 19 mmol, 5.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.CN(C)C1=NC=CC=C1
reactant | 1,3-dicyclohexyl-carbodiimide | 60 mmol, 12.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
product | 2-(1-naphthoyloxy)ethyl methacrylate | C(C(=C)C)(=O)OCCOC(=O)C1=CC=CC2=CC=CC=C12 | C17H16O4
